US08293753B2
Step 5.5: (2S,3R)-3-Iodomethyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid methyl ester
A solution of [but-3-enyl-((S)-1-phenyl-ethyl)-amino]-acetic acid methyl ester [432555-77-6] (20.22 mmol) in THF (10 mL) was slowly added to a solution of lithium diisopropylamide (24.26 mmol) in 1:2 hexanes/THF (30 mL) at −78° C. The reaction mixture was warmed to 0° C., stirred for 1 h and then re-cooled to −78° C. A solution of zinc bromide (50.5 mmol) in Et2O (40 mL) was added and the reaction mixture was then warmed to rt. After stirring for 1 h, the mixture was cooled to 0° C. and iodine (22.24 mmol) was added in portions. The reaction mixture was stirred at 0° C. for 2 h and at rt for another 2 h, diluted with Et2O and then successively washed with a saturated solution of Na2S2O3 and a saturated solution of NH4Cl. The aqueous layers were each back-extracted with Et2O. The combined organic phases were dried (Na2SO4), filtered and concentrated. The residue was purified by silica gel column chromatography to afford the title compound as a red oil. HPLC: tR=3.46 min (method A); ESI-MS: [M+H]+ 374.

reactant | [but-3-enyl-((S)-1-phenyl-ethyl)-amino]-acetic acid methyl ester | 20.22 mmol | COC(CN([C@@H](C)C1=CC=CC=C1)CCC=C)=O | C15H21NO2
reactant | lithium diisopropylamide | 24.26 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | iodine | 22.24 mmol | II | I2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | 40 mL | CCOCC | C4H10O
catalyst | zinc bromide | 50.5 mmol | [Br-].[Zn+2].[Br-]
product | (2S,3R)-3-Iodomethyl-1-((S)-1-phenyl-ethyl)-pyrrolidine-2-carboxylic acid methyl ester | COC(=O)[C@H]1N(CC[C@H]1CI)[C@@H](C)C1=CC=CC=C1 | C15H20INO2
